US07935688B2
(1) Synthesis of 3-(4-bromo-3-methyl-phenyl)-pentan-3-ol
Ethylmagnesium bromide (3 M solution in diethyl ether, 73 mL, 218.3 mmol) was added to a solution of 4-bromo-3-methylbenzoic acid methyl ester (20 g, 87.31 mmol) in tetrahydrofuran (120 mL) in a nitrogen atmosphere at 0° C., and the mixture was stirred at 0° C. for one hour. The reaction mixture was then poured into a saturated aqueous ammonium chloride solution, followed by extraction with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The resulting residue was purified by silica gel chromatography (hexane:ethyl acetate=100:0 to 50:50) to give the target compound as a colorless oil (21.86 g, 97%).

reactant | Ethylmagnesium bromide | 218.3 mmol, 3 M, 73 mL | C(C)[Mg]Br
reactant | 4-bromo-3-methylbenzoic acid methyl ester | 87.31 mmol, 20 g | COC(C1=CC(=C(C=C1)Br)C)=O | C9H9BrO2
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | tetrahydrofuran | 120 mL | O1CCCC1 | C4H8O
product | 3-(4-bromo-3-methyl-phenyl)-pentan-3-ol | 21.86 g, 97% | BrC1=C(C=C(C=C1)C(CC)(CC)O)C | C12H17BrO
